US08372850B2
6-(Azetidin-1-yl)-2-(2-chlorophenyl)-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine (I-1)
A mixture containing 6-chloro-2-(2-chlorophenyl)-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine (430 mg, 1.34 mmol), N,N-diisopropylethylamine (1.17 ml, 6.72 mmol), azetidine (272 mL, 4.03 mmol) and n-butanol (20 mL) was heated at 108° C. overnight. The reaction mixture was cooled to room temperature and concentrated in vacuo. The concentrate was treated with ethyl acetate/Petroleum ether and water and the resulting solid filtered. The solid was washed with further quantities of ethyl acetate/Petroleum ether and water and dried in vacuo to give the title compound as a white solid (350 mg, 76%). MS (ES+) m/e=341. 1H NMR: (DMSO) 2.28-2.40 (2H, m), 3.91-4.03 (4H, m), 5.90 (1H, brs), 6.30 (1H, brs), 7.31-7.60 (4H, m), 9.28 (1H, brs), 11.88 (1H, brs).

reactant | 6-chloro-2-(2-chlorophenyl)-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 1.34 mmol, 430 mg | ClC1=CC(=NC(=N1)C1=C(C=CC=C1)Cl)NC1=NNC(=C1)C | C14H11Cl2N5
reactant | N,N-diisopropylethylamine | 6.72 mmol, 1.17 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | azetidine | 4.03 mmol, 272 mL | N1CCC1 | C3H7N
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
product | 6-(Azetidin-1-yl)-2-(2-chlorophenyl)-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 350 mg, 76% | N1(CCC1)C1=CC(=NC(=N1)C1=C(C=CC=C1)Cl)NC1=NNC(=C1)C | C17H17ClN6
